Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
elevated BP in office
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G7P3033 at 33w3d presents for evaluation after having elev 
BP (168/78) in the office. Pt with hx cHTN, currently on 
Labetalol 200mg TID. Pt states she took her medication this 
morning. She feels well. Denies any headaches, visual changes, 
abd pain, lof, or vb. +FM
 
Past Medical History:
PNC:
*) ___ ___
*) AB+/Ab-, RPRnr,RI,HbsAg-,HCV-,GBS unk
*) LR NIPT, nl FFS
*) elev GLT, nl GTT
ISSUES
*) transfer of care from ___ at 23wks
*) cHTN: presented to care at ___ at 23wks, Labetalol increased 
from 100 BID to ___ BID, now up to 200mg TID. takes baby ASA. 
pt reports doing 24hr urine at ___ in early pregnancy, records 
not available. per pt, told "normal"

OBHx:
- SVD, 37wks, 6#8, BMC, ___ ago
- SVD, 40wks, 6#12, BMC, ___ ago
- SVD, 38
- SAB x 2
- Ectopic pregnancy, treated with LSC L salpingectomy
 
GynHx:
- reports hx abnl Pap, requiring colposcopy only
- hx gonorrhea, chlamydia at age ___ denies herpes or other STIs

PMH: 
- cHTN: dx'd in ___. previously on meds, stopped prior to 
current pregnancy but started on Labetalol in early pregnancy
- Bipolar d/o
 
PSH: LSC L salpingectomy
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
Gen: well-appearing NAD
VS: HR 83
BPs 159/94, 158/76, 161/76, 156/76, 162/86 -> Labetalol 200mg 
given -> 154/84, 151/83, 160/78, 157/73
Abd: soft, gravid, NT
Ext: trace edema, no calf tenderness
FHT: 140s, reactive
Toco: irreg
U/S: cephalic, MVP 4.7, BPP ___

On discharge:
Vitals: 
T 97.4 147 / 72 (120s-140s/60s-80s, 164/72 x1) HR 99 RR 20 98%
room air 
Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender 
Ext: [x] no edema [x] non-tender
 
Date: ___ Time: 1140
FHT:  135/mod var/+accels/single variable decel
Toco: flat
 
Pertinent Results:
___ WBC-9.0 RBC-4.19 Hgb-11.3 Hct-35.8 MCV-85 Plt-207
___ Creat-0.6 ALT-18 AST-19 UricAcd-5.0

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ URINE Hours-RANDOM Creat-52 TotProt-5 Prot/Cr-0.1
___ URINE pH-6 Hours-24 Volume-4200 Creat-41 TotProt-7 
Prot/Cr-0.2
___ URINE 24Creat-1722 24Prot-294

R/O Group B Strep - Penicillin Allergy (Final ___: 
 POSITIVE FOR GROUP B BETA STREPTOCOCCI. 
 This isolate is presumed to be resistant to clindamycin based 
on
 the detection of inducible resistance test result performed by
 ___. 

   SENSITIVITIES: MIC expressed in MCG/          
_________________________________________________________
     POSITIVE FOR GROUP B BETA STREPTOCOCCI  
CLINDAMYCIN-----------       R
 
Brief Hospital Course:
___ G7P3 with cHTN admitted at 33w3d worsening BPs. On arrival 
to triage, she transiently had some severe range blood 
pressures. She was asymptomatic and lasb were in normal range 
and no evidence of preeclampsia. Fetal testing was reassuring. 
Her Labetolol was increased with improvement in her BPs. She was 
admitted for continued observation and to complete a 24 urine 
and preeclampsia assessment.
An ultrasound showed normal fetal growth. Her 24 hour urine was 
294mg, just below threshold for preeclampsia. Continued dose 
adjustment of her labetolol increased her to 800mg TID. She was 
discharged to home and will have close outpatient follow up.
 
Medications on Admission:
PNV
baby ASA
Labetolol 200 TID
 
Discharge Medications:
1.  Labetalol 800 mg PO Q8HR 
RX *labetalol 200 mg 4 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Prenatal Vitamins 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear. Ms. ___,  

You were admitted to the hospital with elevated blood pressures. 
Your blood pressures were monitored and your antihypertensive 
medications adjusted. Your urine collection indicated that you 
do not have preeclampsia. Please monitor your blood pressures at 
home and call the office if elevated above 160/110.

Please follow the instructions below:  
 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns
 
Followup Instructions:
___